US08217069B2
5-Amino-2-cyano-4-methylpyridine
To a suspension of 2-cyano-4-methyl-5-nitropyridine (1.86 g) and ammonium chloride (3.05 g) in water (50 mL) was added zinc (7.46 g) under ice-cooling over 10 minutes, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added ethyl acetate (50 mL), and the resulting mixture was stirred at room temperature for 30 minutes. The insoluble material was removed by filtration, and the organic layer of the filtrate was separated. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=1/1), and collected by filtration. The collected solids were dried under reduced pressure to give the title compound (0.7 g).

reactant | 2-cyano-4-methyl-5-nitropyridine | 1.86 g | C(#N)C1=NC=C(C(=C1)C)[N+](=O)[O-] | C7H5N3O2
reactant | ammonium chloride | 3.05 g | [Cl-].[NH4+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | zinc | 7.46 g | [Zn] | Zn
product | 5-Amino-2-cyano-4-methylpyridine | 0.7 g | NC=1C(=CC(=NC1)C#N)C | C7H7N3
